US07589206B2
Prepared in a similar manner to Example 4(d) from 7-chloro-3-methyl-4-(1-piperidin-1-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester (90 mg) and using 3-methoxyaniline (54 ul) instead of 3-bromoaniline and heating for 15 rather than 30 minutes. Isolated by MDAP rather than trituration with diethyl ether to give 1-[7-(3-methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone (65 mg).

reactant | 7-chloro-3-methyl-4-(1-piperidin-1-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 90 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(=O)N2CCCCC2)Cl)C | C19H24ClN3O3
reactant | 3-methoxyaniline | 54 ul | COC=1C=C(N)C=CC1 | C7H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[7-(3-methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone | 65 mg | COC=1C=C(C=CC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCCCC2 | C21H24N4O2
